US06110924
c) Preparation of 5-bromo-5-benzylbarbituric acid
To a suspension of 5-benzylbarbituric acid (1.7 g) in 15 ml of water, cooled to 0-5° C., 1 ml of 48% hydrobromic acid are added followed by the addition dropwise of 0.437 ml of bromine into the reaction mixture. After 1 hour under stirring at a temperature below 10° C. the solid which formed is separated by filtration and washed with water. 2.17 g of the product are obtained. m.p. 164-166° C.

reactant | 5-benzylbarbituric acid | 1.7 g | C(C1=CC=CC=C1)C1C(NC(NC1=O)=O)=O | C11H10N2O3
reactant | hydrobromic acid | 1 ml | Br | BrH
reactant | bromine | 0.437 ml | BrBr | Br2
solvent | water | 15 ml | O | H2O
product | 5-bromo-5-benzylbarbituric acid | 2.17 g | BrC1(C(NC(NC1=O)=O)=O)CC1=CC=CC=C1 | C11H9BrN2O3
